US07977351B2
2-Methyl-furo[3,4-b]pyridine-5,7-dione
A solution of 6-methyl-1,2-pyridine dicarboxylic acid (25 g, 138 mmol) and acetic acid (42 mL, 733 mmol) in DME (150 mL) is treated with pyridine (22 mL, 272 mmol) and stirred at room temperature for 2 h. The pale yellow solution is diluted with ether (250 mL) and then hexane (1250 mL) is added slowly. A white precipitate is formed. The solution is cooled to 0° C. for 30 min and the white solid is collected by filtration. The solid is washed with hexane and dried to give the title compound as a white solid (16.7 g, 74%).

reactant | 6-methyl-1,2-pyridine dicarboxylic acid | 138 mmol, 25 g | CC1=CC=CC(N1C(=O)O)C(=O)O | C8H9NO4
reactant | acetic acid | 733 mmol, 42 mL | C(C)(=O)O | C2H4O2
reactant | pyridine | 272 mmol, 22 mL | N1=CC=CC=C1 | C5H5N
reactant | hexane | 1250 mL | CCCCCC | C6H14
solvent | DME | 150 mL | COCCOC | C4H10O2
solvent | ether | 250 mL | CCOCC | C4H10O
product | 2-Methyl-furo[3,4-b]pyridine-5,7-dione | 16.7 g, 74% | CC1=CC=C2C(=N1)C(OC2=O)=O | C8H5NO3
